US04637899
Preparation of Dodecyl Pyridinium Bromide
Equimolar amounts of 1-bromo-dodecane (249.2 g) and pyridine (79.1 g) are placed in a glass, three-necked, round bottom flask equipped with a heating means, a stirring means, and a condensing means. Then 82.1 g of isopropanol are added to the flask as a solvent. The contents of the vessel are heated to reflux with constant stirring. Reflux is maintained for six hours. Analysis of the reaction mixture indicates that the reaction is approximately 100 percent complete.

reactant | 1-bromo-dodecane | 249.2 g | BrCCCCCCCCCCCC | C12H25Br
reactant | pyridine | 79.1 g | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | 82.1 g | C(C)(C)O | C3H8O
product | Dodecyl Pyridinium Bromide | [Br-].C(CCCCCCCCCCC)[N+]1=CC=CC=C1 | InChI=1S/C17H30N.BrH/c1-2-3-4-5-6-7-8-9-10-12-15-18-16-13-11-14-17-18;/h11,13-14,16-17H,2-10,12,15H2,1H3;1H/q+1;/p-1
